US08202858B2
3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic Acid piperidin-4-ylmethyl Ester
4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyloxymethyl}-piperidine-1-carboxylic acid benzyl ester from Example E77.1 (44 mg, 0.07 mmol) was dissolved in methanol (5 ml) and hydrogenated over 10% Pd/C catalyst (5 mg) for 2 h. The mixture was filtered through Celite® filter agent and the filtrate concentrated in vacuo to give a white powder identified as the title compound (34 mg, 98%).

reactant | 4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyloxymethyl}-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C36H39N5O5
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic Acid piperidin-4-ylmethyl Ester | 34 mg, 98% | N1CCC(CC1)COC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C28H33N5O3
